US07893267B2
1.05 g (5.0 mmol) of 2-amino-3-(3,5-difluoro-phenyl)-propionic acid (1.05 g, 5 mmol) was dissolved in 30.0 mL of MeOH, then 1.0 mL of thionyl chloride was added dropwise. The mixture was refluxed overnight. Evaporation of the solvent yielded the solid 2-Amino-3-(3,5-difluoro-phenyl)-propionic acid methyl ester HCl salt (1.26 g, 100%), and it was used directly in the next step.

reactant | 2-amino-3-(3,5-difluoro-phenyl)-propionic acid | 5.0 mmol, 1.05 g | NC(C(=O)O)CC1=CC(=CC(=C1)F)F | C9H9F2NO2
reactant | thionyl chloride | 1.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 30.0 mL | CO | CH4O
product | 2-Amino-3-(3,5-difluoro-phenyl)-propionic acid methyl ester HCl salt | 1.26 g, 100% | Cl.COC(C(CC1=CC(=CC(=C1)F)F)N)=O | InChI=1S/C10H11F2NO2.ClH/c1-15-10(14)9(13)4-6-2-7(11)5-8(12)3-6;/h2-3,5,9H,4,13H2,1H3;1H
